US04065456
In the same manner as described in Example 7, 6-hydroxy-3,4-dihydrocarbostyril was reacted with gylcerol α-monochlorohydrin to give 6-(2,3-dihydroxy)propoxy-3,4-dihydrocarbostyril as white needle-like crystals having a melting point of 190° - 192° C.

reactant | 6-hydroxy-3,4-dihydrocarbostyril | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | α-monochlorohydrin | C(C(CCl)O)O | C3H7ClO2
product | 6-(2,3-dihydroxy)propoxy-3,4-dihydrocarbostyril | OC(COC=1C=C2CCC(NC2=CC1)=O)CO | C12H15NO4
